US07141598B2
Production of 6-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide
6-(7-Hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide (77 mg) was dissolved in methanol (5 ml). 1 N Hydrochloric acid (0.5 ml) and 10% palladium carbon (50% wet, 39 mg) were added, and the mixture was vigorously stirred for 12 h under 4 kg/cm2 hydrogen atmosphere. The catalyst was filtered off and the residue was washed with methanol. The filtrate and the washing were combined and aqueous potassium carbonate solution (0.25 M; 1 ml) was added. After neutralization, the solvent was evaporated under reduced pressure, and the residue was purified by flash silica gel column chromatography (eluent, chloroform/methanol containing ammonia (7%); 19/1). The eluate was recrystallized from chloroform-ether to give the title compound (53 mg) as colorless crystals.

reactant | 6-(7-Hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide | 77 mg | OC1(CCN2C=NC=C21)C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O2
reactant | Hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium carbon | 39 mg | [C].[Pd]
product | 6-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide | 53 mg | C1=C2N(C=N1)CCC2C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O
